US08097656B2
0.32 g (2.1 mmoles) of 3,5-dimethoxyaniline, 0.26 g (1.0 mmol) of 2-bromo-1-(3,5-dimethoxyphenyl)ethanone and 0.42 ml (3.3 mmol) of N,N-dimethylaniline were placed in a vial. The vial was placed inside a monomode microwave reactor and was radiated at a power of 100 W, at a temperature of 150° C. for 10 minutes. After cooling the reaction vial, the mixture was dissolved in AcOEt, was washed with an aqueous HCl 2N solution, was dried on anhydrous Na2SO4 and was evaporated at low pressure. The crude portion was purified by means of pressure column chromatography (Eluent: AcOEt/hexanes) obtaining 4,6-dimethoxy-2-(3,5-dimethoxyphenyl)-1H-indole.

reactant | 3,5-dimethoxyaniline | 2.1 mmoles, 0.32 g | COC=1C=C(N)C=C(C1)OC | C8H11NO2
reactant | 2-bromo-1-(3,5-dimethoxyphenyl)ethanone | 1.0 mmol, 0.26 g | BrCC(=O)C1=CC(=CC(=C1)OC)OC | C10H11BrO3
reactant | N,N-dimethylaniline | 3.3 mmol, 0.42 ml | CN(C1=CC=CC=C1)C | C8H11N
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 4,6-dimethoxy-2-(3,5-dimethoxyphenyl)-1H-indole | COC1=C2C=C(NC2=CC(=C1)OC)C1=CC(=CC(=C1)OC)OC | C18H19NO4
